US07732463B2
1-Bromo-5-fluoro-2-(4-methyl-phenylsulfanyl)-benzene (intermediate for 21).
Prepared from 4-methyl-benzenethiol and 2-bromo-4-fluoro-1-iodo-benzene.

reactant | 4-methyl-benzenethiol | CC1=CC=C(C=C1)S | C7H8S
reactant | 2-bromo-4-fluoro-1-iodo-benzene | BrC1=C(C=CC(=C1)F)I | C6H3BrFI
product | 1-Bromo-5-fluoro-2-(4-methyl-phenylsulfanyl)-benzene | BrC1=C(C=CC(=C1)F)SC1=CC=C(C=C1)C | C13H10BrFS
